US08604069B2
(A-82-19) tert-Butyl 3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]-5-hydroxyvalerate
tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate (17.62 g) and tetrahydrofuran (106 mL) were mixed. After an addition of acetic acid/water=4/1 (2.45 mL) and tetrabutylammonium fluoride (1 M in tetrahydrofuran) (39.2 mL) to the solution at ice temperature, the mixture was stirred at RT overnight. The reaction mixture was concentrated in vacuo and purified by silica gel column chromatography (Eluent: ethyl acetate/hexane=1/6→1/2) to give the title compound (11.82 g).

reactant | tert-Butyl 5-(tert-butyldiphenylsilanyloxy)-3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]valerate | 17.62 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCC(CC(=O)OC(C)(C)C)C1=NOC(=C1C1CC1)C1CC(C1)CC(C)C | C39H55NO4Si
reactant | tetrahydrofuran | 106 mL | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | 1 M, 39.2 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetic acid water | C(C)(=O)O.O
product | tert-Butyl 3-[4-cyclopropyl-5-(3-isobutylcyclobutyl)isoxazol-3-yl]-5-hydroxyvalerate | 11.82 g | C1(CC1)C=1C(=NOC1C1CC(C1)CC(C)C)C(CC(=O)OC(C)(C)C)CCO | C23H37NO4
